US20010049441A1
3-(1,2,3,5,8,8a-Hexahydro-7-indolizinyl)-1-(4-methyl-benzenesulfonyl)-7-azaindole (6.9 mg, 42.0%);
from 3-(1,2,3,5,8,8a-hexahydro-7-indolizinyl)-1H-7-Azaindole (10 mg, 0.0418 mmol), 4-methyl-benzenesulfonyl chloride (20 mg, 0.105 mmol) and 1M NaN(TMS)2 (100 μL, 0.10 mmol) in THF (0.5 mL) at RT.

reactant | 3-(1,2,3,5,8,8a-hexahydro-7-indolizinyl)-1H-7-Azaindole | 0.0418 mmol, 10 mg | C1CCN2CC=C(CC12)C1=CNC2=NC=CC=C12 | C15H17N3
reactant | 4-methyl-benzenesulfonyl chloride | 0.105 mmol, 20 mg | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | NaN(TMS)2 | 0.10 mmol, 1M, 100 μL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 3-(1,2,3,5,8,8a-Hexahydro-7-indolizinyl)-1-(4-methyl-benzenesulfonyl)-7-azaindole | C1CCN2CC=C(CC12)C1=CN(C2=NC=CC=C12)S(=O)(=O)C1=CC=C(C=C1)C | C22H23N3O2S
